US08026365B2
Step 3: N-[4-Cyano-1-(3-ethoxy-4-methyl-benzyl)-piperidin-4-yl]-5-methyl-nicotinamide
To a solution of N-(4-cyano-piperidin-4-yl)-5-methyl-nicotinamide dihydrochloride (171.0 mg, 0.54 mmol, 1.0 equiv) in isopropanol (5 mL) was added 3-ethoxy-4-methyl-benzaldehyde (88.7 mg, 0.54 mmol, 1.0 equiv; intermediate B10), titanium tetra-isopropoxide (766.5 mg, 2.70 mmol, 5.0 equiv) and N-ethyl diisopropylamine (209.5 mg, 1.62 mmol, 3.0 equiv), followed by sodium cyanoborohydride (67.4 mg, 1.08 mmol, 2.0 equiv) after stirring for 1 h. The reaction mixture was allowed to react overnight and then poured directly onto a silica column eluting with ethyl acetate. The isolated crude product was purified by a second silica column eluting with dichloromethane/methanol (93:7) delivered finally 22.0 mg (24%) of the title compound as colorless oil. MS (ISP): 393.2 [M+H]+.

reactant | N-(4-cyano-piperidin-4-yl)-5-methyl-nicotinamide dihydrochloride | 0.54 mmol, 171.0 mg, 1.0 equiv | Cl.Cl.C(#N)C1(CCNCC1)NC(C1=CN=CC(=C1)C)=O
reactant | 3-ethoxy-4-methyl-benzaldehyde | 0.54 mmol, 88.7 mg, 1.0 equiv | C(C)OC=1C=C(C=O)C=CC1C | C10H12O2
reactant | N-ethyl diisopropylamine | 1.62 mmol, 209.5 mg, 3.0 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium cyanoborohydride | 1.08 mmol, 67.4 mg, 2.0 equiv | C(#N)[BH3-].[Na+]
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
catalyst | titanium tetra-isopropoxide | 2.70 mmol, 766.5 mg, 5.0 equiv | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | N-[4-Cyano-1-(3-ethoxy-4-methyl-benzyl)-piperidin-4-yl]-5-methyl-nicotinamide | C(#N)C1(CCN(CC1)CC1=CC(=C(C=C1)C)OCC)NC(C1=CN=CC(=C1)C)=O | C23H28N4O2
